US07700641B2
C. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 35D, and making non-critical variations to replace 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one with 3-(5-bromo-2-hydroxyphenyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained: MS (ES+) m/z 334.2 (M+1), 336.2 (M+1).

reactant | 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | FC=1C=C2C(C(N(C2=CC1)CC=1OC(=CC1)C(F)(F)F)=O)C1=CC2=C(OCO2)C=C1O | C21H13F4NO5
reactant | 3-(5-bromo-2-hydroxyphenyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1C(NC2=CC=CC=C12)=O)O | C14H10BrNO2
product | 3-(5-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(NC2=CC=CC=C12)=O)CO)O | C15H12BrNO3
